US07361671B2
5-Chloro-6-ethyl-pyridin-3-yl-methanol (4.00 g, 23.3 mmol) is treated with thionyl chloride (50 mL, 685 mmol) and stirred at room temperature for 3 h. The excess SOCl2 is removed under reduced pressure. Water (300 mL) is added and the mixture is neutralized with solid Na2CO3. The precipitated product is filtered, washed with H2O (200 mL) and dried in vacuo to provide 3-chloro-5-chloromethyl-2-ethyl-pyridine as a light brown oil (4.3 g, 97%): Rf 0.54 (30% ethyl acetate in n-heptane), 1H NMR (CDCl3, 300 MHz) δ 8.42 (d, J=1.9 Hz 1 H), 7.70 (d, J=1.9 Hz, 1 H), 4.55 (s, 2 H), 2.97 (q, J=7.4 Hz, 2 H), 1.30 (t, J=7.4 Hz, 3 H). ESI-LCMS m/z calcd for C8H9Cl2N: 189.0; found 190.0 (M+1)+.

reactant | 5-Chloro-6-ethyl-pyridin-3-yl-methanol | 23.3 mmol, 4.00 g | ClC=1C=C(C=NC1CC)CO | C8H10ClNO
reactant | thionyl chloride | 685 mmol, 50 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-chloro-5-chloromethyl-2-ethyl-pyridine | 4.3 g, 97% | ClC=1C(=NC=C(C1)CCl)CC | C8H9Cl2N
